US08541411B2
b) 2-(difluoromethyl)-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
A mixture of methyl 2-(difluoromethyl)-1-(2-methyl-3-(trifluoromethyl)benzyl)-6-morpholino-1H-benzo[d]imidazole-4-carboxylate (700 mg, 1.45 mmol) and 2 N LiOH (5 mL) in THF (10 mL) was stirred at 45° C. for 4 h. It was filtered, the filter cake was dissolved in water (10 mL) and formic acid was added to adjust pH=3-4. Then a filtration was performed and the filter cake was dried under vacuum to give the desired product (400 mg, 59%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.53 (s, 3H), 3.13 (s, 4H), 3.73 (s, 4H), 5.75 (s, 2H), 6.29 (d, 1H, J=7.5 Hz), 7.19-7.61 (m, 5H), 12.97 (br s, 1H); LC-MS: m/e=470 [M+1]+

reactant | methyl 2-(difluoromethyl)-1-(2-methyl-3-(trifluoromethyl)benzyl)-6-morpholino-1H-benzo[d]imidazole-4-carboxylate | 1.45 mmol, 700 mg | FC(C1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)OC)N2CCOCC2)F | C23H22F5N3O3
reactant | LiOH | 2 N, 5 mL | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(difluoromethyl)-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 400 mg, 59% | FC(C1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)O)N2CCOCC2)F | C22H20F5N3O3
